US05800733
A solution of 1.50 g of 6-[4'-[trans-4-[3-(trifluoromethanesulphonyl)-propyl]-cyclohexyl]-biphenyl-4-yloxy]-hexyl acrylate and 0.155 g of 3,4-dihydroxy-benzonitrile in 25 ml of 1,2-dimethoxyethane was treated portionwise at 20° C. with 0.286 g of potassium tertiary butylate and subsequently stirred overnight at 85° C. The cooled reaction mixture was poured into 25 ml of water and then extracted three times with 20 ml of ethyl acetate. The combined organic phases were washed twice with 50 ml of water, dried over magnesium sulphate, filtered and concentrated. Chromatographic purification of the residue on silica gel with cyclohexane/ethyl acetate (vol. 8:2) and two-fold recrystallization from a cyclohexane/ethyl acetate mixture (vol. 8:2) of the fractions which were pure according to thin-layer chromatography gave 1.10 g of 3,4-bis-[3-[trans-4-[4'-(6-acryloyloxy-hexyloxy)-biphenyl-4-yl]-cyclohexyl]-propoxy]-benzonitrile.

reactant | 6-[4'-[trans-4-[3-(trifluoromethanesulphonyl)-propyl]-cyclohexyl]-biphenyl-4-yloxy]-hexyl acrylate | 1.50 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCS(=O)(=O)C(F)(F)F | C31H39F3O5S
reactant | 3,4-dihydroxy-benzonitrile | 0.155 g | OC=1C=C(C#N)C=CC1O | C7H5NO2
reactant | water | 25 ml | O | H2O
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
product | 3,4-bis-[3-[trans-4-[4'-(6-acryloyloxy-hexyloxy)-biphenyl-4-yl]-cyclohexyl]-propoxy]-benzonitrile | 1.10 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCOC=1C=C(C#N)C=CC1OCCC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C67H81NO8
